US07405220B2
(2,4-Dichloro-pyrimidin-5-yl)-(2-methoxy-phenyl)-methanol
The compound was prepared from 5-bromo-2,4-dichloropyrimidine (Aldrich) and 2-methoxybenzaldehyde (Aldrich) in 77% yield in an analogous manner as described in Example 1. 1H NMR (300 MHz, CDCl3) δ 8.75 (s,1 H), 7.34 (d.t. 1H, J=2 Hz, 8 Hz), 7.16 (d,d, 1H, J=1.8 Hz, 7.3 Hz ), 6.96 (d, 1H, J=7.3 Hz), 6.95 (d,1H, J=8 Hz), 1H), 3.85 (s, 3H), 3.148 (br. s, 1H).

reactant | 5-bromo-2,4-dichloropyrimidine | BrC=1C(=NC(=NC1)Cl)Cl | C4HBrCl2N2
reactant | 2-methoxybenzaldehyde | COC1=C(C=O)C=CC=C1 | C8H8O2
product | (2,4-Dichloro-pyrimidin-5-yl)-(2-methoxy-phenyl)-methanol | 77% yield | ClC1=NC=C(C(=N1)Cl)C(O)C1=C(C=CC=C1)OC | C12H10Cl2N2O2
